US04065456
In the same manner as described in Example 7, 7-hydroxy-3,4-dihydrocarbostyril was reacted with glycerol α-monochlorohydrin to give 7-(2,3-dihydroxy)propoxy-3,4-dihyrocarbostyril as white needle-like srystals having a melting point of 143° - 144° C.

reactant | 7-hydroxy-3,4-dihydrocarbostyril | OC1=CC=C2CCC(NC2=C1)=O | C9H9NO2
reactant | glycerol α-monochlorohydrin | C(C(CCl)O)O | C3H7ClO2
product | 7-(2,3-dihydroxy)propoxy-3,4-dihyrocarbostyril | OC(COC1=CC=C2CCC(NC2=C1)=O)CO | C12H15NO4
